US07902219B2
The (6-aminoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone is dissolved in 7 mL of acetic acid and treated with 0.8 mL of acetic anhydride. The reaction medium is refluxed for 2 hours, cooled, filtered and concentrated to dryness. The residue is taken up in ethyl acetate and saturated sodium hydrogen carbonate solution. The organic phase is washed and concentrated, and the product obtained is chromatographed on a column of silica, eluting with a 95/5 mixture of dichloromethane and methanol. The fractions containing the expected product are combined and concentrated to give 150 mg of N-(2-benzoylimidazo[1,2-a]pyridin-6-yl)acetamide as a mixture with N-(3-benzoylimidazo[1,2-a]pyridin-6-yl)acetamide. The two isomers are separated by preparative LC/MS preparative to give 54 mg of purified N-(2-benzoylimidazo[1,2-a]pyridin-6-yl)acetamide in the form of a beige-colored solid.

reactant | (6-aminoimidazo[1,2-a]pyridin-2-yl)(phenyl)methanone | NC=1C=CC=2N(C1)C=C(N2)C(=O)C2=CC=CC=C2 | C14H11N3O
reactant | acetic anhydride | 0.8 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 7 mL | C(C)(=O)O | C2H4O2
product | N-(2-benzoylimidazo[1,2-a]pyridin-6-yl)acetamide | 150 mg | C(C1=CC=CC=C1)(=O)C=1N=C2N(C=C(C=C2)NC(C)=O)C1 | C16H13N3O2
